US04245097
Preparation of ethyl 4-[11-(n-butylsulfinyl)undecylamino]benzoic acid
A solution of 5.2 g. of 4-[11-(n-butylthio)undecylamino]benzoic acid in 35 ml. of acetone and 20 ml. of tetrahydrofuran is treated with a solution of 3.7 g. of sodium metaperiodate in 3.5 ml. of water and 20 ml. of tetrahydrofuran and the mixture is stirred under reflux for 2 hours and then filtered. The filtrate is extracted with saturated aqueous sodium chloride solution, dried over magnesium sulfate, and evaporated. Crystallization from acetone-chloroform affords the product as a white solid.

reactant | 4-[11-(n-butylthio)undecylamino]benzoic acid | C(CCC)SCCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1 | C22H37NO2S
reactant | acetone | CC(=O)C | C3H6O
reactant | sodium metaperiodate | I(=O)(=O)(=O)[O-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | ethyl 4-[11-(n-butylsulfinyl)undecylamino]benzoic acid | C(C)C1=C(C(=O)O)C=CC(=C1)NCCCCCCCCCCCS(=O)CCCC | C24H41NO3S
